Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea
 
Major Surgical or Invasive Procedure:
Central Venous Line
 
History of Present Illness:
___ yo female with T1DM on insulin pump, right BKA ___, 
chronic lumbar disk disease on chronic narcotics, HTN, HLD, ___ 
transfered to the ICU after short floor stay after admission 
today for N/V/D and transfer to the ICU for hypertensive 
emergency.  
She actually had a similar admission in ___ for HTN urgency 
and mild DKA. She was on a labetalol gtt for and was 
transitioned to Chlorthalidone. She was previously on Lisinopril 
and clonidine patch as an outpatient.  
Patient and husband as well as OMR note corroborate that she 
started having vomiting, nausea on ___. Per OMR note, she called 
on ___ to PCP, day prior to admission, c/o nausea, vomiting 
attributing to possibly withdraw from morphine and oxycodone, 
and wanted to know if her morphine and oxycodone were ready to 
pick up. Per note, she said that she ran out of both on ___ 
morning. Her sxs started ___  
morning w/ nausea and vomiting. Vomiting about ___ a day. She  
denied blood in vomit. Her BS fasting the morning of ___ was 
apparently 192. She denied dizzy, syncope, cp, sob, tremor, 
seizure, fever, chill, abdomen pain, blood in stool or black 
stool or any other changes in her BMs.  
In the ED, it was reported that she presented asking for pain 
medication after she ran out at home. VS were initially, 97.6 62 
219/95 16 97. She was given 2 L of IVF, morphine 5mg x1, ativan 
1mg and zofran, and had nausea persistent and BP 200/90 prior to 
transfer. Upon being asked again in the ED she stated that she 
took oxycodone for pain the day before, not sure how many, 
denies SI, Bglc 220. She was given hydralazine 10mg IV X 1. She 
had a CT head w/o elevated ICP, or mass. CXR was done without 
acute CPP.  
On the floor, she told the team that she ran out of morphine but 
was able to take oxycodone at home. In ED SBP in 200s. Given 
Morphine, Ativan and antiemetics. 220/100 on arrival on the 
floor, barely arousable but improving so did not get narcan. Now 
somnolent but arousable. Denied any other ingestions.  
Given 10mg hydralazine, 10mg labtolol IV without change in BP. 
She did have an episode of bradycardia to the ___ with vomiting 
X 1.  
Most recent finger stick was 230, given 6 Units.  
 
On arrival to the MICU, she was somnolent but arousable, 
oriented X 3. She denied pain though said that she did have a 
recent HA, now resolved. Denied dyspnea or chest pain, abdominal 
pain. Does still report nausea and she vomited a couple of 
times, biliouis material.  
She received 20mg Labetolol IV X 3 with some initial effect in 
BP to SBps to 170s but these quickly rose to 190s.  
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills. Denies headache (had recently but not 
now). Denies cough, shortness of breath, or wheezing. Denies 
chest pain, chest pressure, palpitations or recent symptoms. 
Denies diarrhea, constipation, abdominal pain, or changes in 
bowel habits. Denies dysuria, frequency, or urgency.  

 
Past Medical History:
- h/o DVT, unknown when  
- DMI on insulin pump, patient unable to say dose. Followed by 
___.  
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- History of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 
 
felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents  
PAST SURGICAL HISTORY:  
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
 
hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy  

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 

___. Father - coronary artery disease with MI in her ___, died at 
age ___.  

 
Physical Exam:
Admission Exam:
Vitals: 99.2, 225/90, 98, 97%, 27, finger stick 243
General: Somnolent but arousable, orientedx3,  no acute distress 
 
HEENT: Sclera anicteric, dry MM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
Ext: warm, no edema. s/p right BKA well healed. No ulcers
Neuro: EOEMI, ___ strength hand grip and leg lift

Discharge Exam:
Vitals: 98.7 98.2 132/56 (120-168/50s-80s)  70s  ___ 96-99% RA 
+2560/-2275 BSGs 140s
General: A&Ox3. NAD. Lying comfortably in bed.
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated
CV: Regular rate and rhythm, normal S1 + S2, III/VI SEM. No rubs 
or gallops.
Lungs: Transmitted upper airway sounds. Otherwise, clear to 
auscultation bilaterally, no wheezes or rales.
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
Ext: warm, no edema. s/p right BKA well healed. No ulcers
Neuro: Moving all extremities spontaneously. No focal deficits.
 
Pertinent Results:
___ 12:00PM BLOOD Glucose-331* UreaN-26* Creat-1.0 Na-138 
K-4.0 Cl-102 HCO3-23 AnGap-17
___ 05:22PM BLOOD Glucose-261* UreaN-23* Creat-0.9 Na-138 
K-3.7 Cl-102 HCO3-18* AnGap-22*
___ 11:57PM BLOOD Glucose-119* UreaN-24* Creat-1.0 Na-142 
K-3.2* Cl-107 HCO3-24 AnGap-14
___ 05:11AM BLOOD Glucose-289* UreaN-21* Creat-1.0 Na-139 
K-4.1 Cl-108 HCO3-21* AnGap-14
___ 02:40PM BLOOD Glucose-180* UreaN-17 Creat-1.0 Na-138 
K-3.6 Cl-110* HCO3-20* AnGap-12
___ 02:07AM BLOOD Glucose-245* UreaN-16 Creat-1.1 Na-137 
K-4.1 Cl-107 HCO3-21* AnGap-13
___ 04:00PM BLOOD Glucose-202* UreaN-14 Creat-1.1 Na-136 
K-3.8 Cl-104 HCO3-24 AnGap-12
___ 07:28AM BLOOD Glucose-256* UreaN-13 Creat-1.0 Na-133 
K-3.6 Cl-100 HCO3-26 AnGap-11
___ 04:45PM BLOOD Glucose-113* UreaN-18 Creat-1.4* Na-134 
K-4.0 Cl-101 HCO3-25 AnGap-12
___ 07:10AM BLOOD Glucose-231* UreaN-19 Creat-1.2* Na-136 
K-4.5 Cl-103 HCO3-24 AnGap-14
___ 07:10AM BLOOD Glucose-164* UreaN-24* Creat-1.1 Na-137 
K-4.3 Cl-103 HCO3-28 AnGap-10
___ 12:00PM BLOOD Calcium-9.3 Phos-3.4 Mg-1.6
___ 05:22PM BLOOD Calcium-9.0 Phos-3.3 Mg-1.6
___ 11:57PM BLOOD Calcium-8.4 Phos-2.8 Mg-1.5*
___ 05:11AM BLOOD Calcium-8.1* Phos-1.9* Mg-2.4
___ 02:40PM BLOOD Calcium-7.9* Phos-2.1* Mg-1.9
___ 02:07AM BLOOD Calcium-8.4 Phos-2.7 Mg-2.3
___ 04:00PM BLOOD Calcium-8.3* Phos-2.7 Mg-1.9
___ 07:28AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.7
___ 04:45PM BLOOD Calcium-8.6 Phos-3.9 Mg-1.8
___ 07:10AM BLOOD Calcium-8.0* Phos-3.8 Mg-1.7
___ 05:22PM BLOOD CK-MB-4 cTropnT-<0.01
___ 11:57PM BLOOD CK-MB-4 cTropnT-<0.01
___ 05:11AM BLOOD CK-MB-4 cTropnT-<0.01
___ 05:22PM BLOOD ALT-12 AST-21 CK(CPK)-118 AlkPhos-122* 
TotBili-0.3
___ 11:57PM BLOOD CK(CPK)-90
___ 05:11AM BLOOD CK(CPK)-107
___ 12:00PM BLOOD WBC-7.9 RBC-4.87# Hgb-14.7# Hct-45.4# 
MCV-93 MCH-30.2 MCHC-32.4 RDW-14.5 Plt ___
___ 05:11AM BLOOD WBC-11.9*# RBC-4.07* Hgb-12.4 Hct-37.7 
MCV-93 MCH-30.5 MCHC-32.9 RDW-15.0 Plt ___
___ 02:07AM BLOOD WBC-8.5 RBC-3.63* Hgb-11.0* Hct-33.8* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-14.5 Plt ___
___ 07:28AM BLOOD WBC-5.5 RBC-3.62* Hgb-11.0* Hct-33.9* 
MCV-94 MCH-30.4 MCHC-32.4 RDW-14.7 Plt ___
___ 07:10AM BLOOD WBC-5.8 RBC-3.71* Hgb-11.2* Hct-36.1 
MCV-97 MCH-30.3 MCHC-31.1 RDW-14.3 Plt ___
___ 07:10AM BLOOD WBC-6.8 RBC-3.71* Hgb-11.0* Hct-34.8* 
MCV-94 MCH-29.6 MCHC-31.5 RDW-14.4 Plt ___
___ 06:06PM BLOOD Type-ART pO2-102 pCO2-22* pH-7.51* 
calTCO2-18* Base XS--2
___ 12:17AM BLOOD ___ pO2-47* pCO2-45 pH-7.37 
calTCO2-27 Base XS-0
___ 05:38AM BLOOD Type-CENTRAL VE pO2-45* pCO2-38 pH-7.42 
calTCO2-25 Base XS-0
___ 06:06PM BLOOD freeCa-1.04*
___ 03:10PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-1000 Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:10PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-2 
RenalEp-<1
___ 03:10PM URINE Color-Straw Appear-Clear Sp ___
___ 03:10PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 11:00PM URINE METANEPHRINES, FRACTIONATED, 24HR 
URINE-PND
.
BCx ___ x2 NEG
MRSA POS
Sputum CONTAMINATED
.
___ ECHO 
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Left 
ventricular systolic function is hyperdynamic (EF>75%). There is 
no ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. No mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. There is an anterior space 
which most likely represents a prominent fat pad. 
Compared with the prior study (images reviewed) of ___, 
the LV systolic function is now hyperdynamic. 
.
___ CT Head
IMPRESSION:  No acute intracranial process.  Chronic 
microvascular ischemic disease, unchanged. 
.
___ CXR
IMPRESSION:  Mild prominence of the interstitium may be 
technical; however, the possibility of mild pulmonary edema 
cannot be excluded.  Recommend clinical correlation. 
.
___ Renal US
Normal-sized kidneys with no evidence of renal artery stenosis. 
Moderately elevated resistive indices bilaterally.
.
___ EKG
Sinus rhythm. Borderline left atrial enlargement. Cannot rule 
out old septal myocardial infarction. Left axis deviation. 
Compared to the previous tracing of ___ the heart rate has 
decreased. QS complexes are now noted in leads VI-V2. Criteria 
for left anterior fascicular block are no longer seen.
.
 
Brief Hospital Course:
___ yo female with T1DM (insulin pump), chronic lumbar disk 
disease, hypertension, hyperlipidemia, severe peripheral 
vascular disease s/p right BKA (___), orthostatic hypotension 
(on salt tabs) who had been admitted on ___ for 
nausea/vomiting/diarrhea in the setting of running out of 
opioids, was found to be hypertensive and had altered mental 
status, and mild DKA, so she was transferred to the MICU for 
?hypertensive emergency. Her blood pressures improved and 
confusion resolved.
.
# Hypertensive urgency: Patient has a history of hypertension, 
but because of orthostatic hypotension she takes salt tabs and 
is not on any home antihypertensives. In the ED, Ms. ___ had 
BP 219/95 P 62. She received 2L NS, morphine 5mg, and IV hydral 
20 mg. Head CT was negative for edema. On the floor, she 
received IV hydral 10mg x1 and labetalol, but her SBPs only 
temporarily dropped below 200. She was transferred to the MICU, 
where she was started on labetalol gtt and transitioned to PO 
labetalol. Her BPs remained elevated (SBPs 160s-180s), but PCP 
recommended goal ~160 given orthostatic hypotension. She was 
transferred to the floor, where because of relatively low BPs 
120s-140s her labetalol was weaned and she was transitioned to 
lisinopril 5mg and then lisinopril 2.5mg. She was discharged on 
lisinopril 2.5 mg. In the AM, prior to getting her medications 
her BP was as high as 180, but throughout the rest of the day 
her SBPs were 120s-140s. She underwent a renal artery ultrasound 
that showed no evidence of renal artery stenosis. Serum 
metanephrines and 24-hr urine metanephrines were collected and 
pending at the time of discharge.
.
# Orthostatic hypotension: Patient with known orthostatic 
hypotension, which is why she has not been on antihypertensives 
at home. In MICU SBPs 160->120. Improved on the floor, but still 
positive on lisinopril 2.5 mg at the time of discharge although 
asymptomatic (SBP 151->129). Likely a component of autonomic 
dysfunction due to diabetes.
.
# Altered mental status: In the ED, the patient was 
intermittently confused. Her insulin pump was removed, she 
received morphine 10mg and ativan 2mg IV. Her serum and urine 
tox screens were negative, except for opioids. On arrival to the 
floor, she was somnolent but arousable and interactive, but 
minimally conversational and orientation could not be assessed. 
In the MICU, she returned to her baseline mental status (A&Ox3, 
conversational) and remained there for the remainder of this 
admission. Head CT revealed no hemorrhage, edema, or midline 
shift. She was afebrile and had negative Bcx x2. EKG showed 
RBBB, but no ST-changes and cardiac enzymes were negative x3. 
The mental status changes were likely contributed to by opioid 
intoxication, mild DKA, and possibly severe hypertension.
.
# Respiratory alkalosis: On arrival to the floor, the patient 
had a respiratory alkalosis (pH 7.51, pCO2 22). She was 
somnolent, but arousable. This was resolved by four hours later 
and likely was due to opioid intoxication.
.
# DKA: Patients insulin pump was removed in the ED and by the 
time she was on the floor she had an anion-gap metabolic 
acidosis (HCO3 18, anion gap 18). Overall blood was alkalemic 
due to a primary respiratory alkalosis. She received insulin 6 
units, insulin 10 units, and was put on an insulin drip. ___ 
was consulted. The anion gap was corrected by HD3. She was 
switched over to sliding scale and then restarted on her home 
insulin pump and regimen. At the time of discharge, her BSGs 
were stable ranging between 130s and 190s (mostly 140s). She was 
r/o for an MI and there were no signs of infection. 
.
# EKG changes: Initial EKGs revealed a new RBBB. Cardiology was 
consulted and thought likely to be rate related. TTE revealed 
hyperdynamics with no wall motion abnormalities. Cardiac enzymes 
were negative x3. The RBBB was resolved on HD2.
.
# ___: Likely pre-renal. On the floor, creatinine bumped to 1.4 
(from 1.0). She received 1L NS bolus and her urinary output 
increased and creatinine was downtrending (1.1 on discharge). 
.
# Chronic pain: Patient has baseline phantom pain in right leg 
(s/p BKA). Extremities were warm and well perfused with 
dopplerable pulses. Pain was reasonably controlled on home 
gabapentin, MScontin BID, and oxycodone ___ daily PRN.
.
# Hypothyroidism: Patient was initially on IV levothyroxine when 
unable to tolerate PO's, then transitioned back to home dose.  
.
# PVD: Continued on home plavix, zocor while able to take PO.

# Depression: Patient without complaints during this admission. 
Continued on home meds.
.
# s/p right BKA: Worked with ___, who recommended ambulation TID 
and outpatient ___.
.
# TRANSITIONAL ISSUES:
- ___ for BP checks.
- Continue biweekly ___
- Started lisinopril 2.5 mg PO
- Stopped salt tabs
- Should follow-up with PCP regarding antihypertensive regimen.
 
Medications on Admission:
Refresh 1 % Eye Drops prn
Plavix 75 mg daily
Citalopram 40 mg Tab daily
1 Tablet(s) by mouth once a day
Glucagon (Human Recombinant) 1 mg Injection Kit prn low sugar
Citracal + D 315 mg-200 unit Tab
Fish Oil 1,000 mg Cap
Travatan Z 0.004 % Eye Drops 1 drop ___ daily
Lantus 100 unit/mL Sub-Q 5 units at bedtime
Sennosides 8.6 mg Tab, 2 Tablet(s) by mouth once a day
Humalog 100 unit/mL SubQ Cartridge on insulin pump basal rate
Cyanocobalamin (vitamin B-12) 1,000 mcg Tab daily
Morphine ER 15 mg Tab, 3 Tablet(s) by mouth QAM and 2 tab QPM
Sodium chloride 1 gram Tab, 1 Tablet(s) by mouth daily
Lorazepam 1 mg Tab QHS for anxiety
metoclopramide 10 mg Tab by mouth 30 minutes before meals
calcitriol 0.25 mcg Cap daily
Zocor 40 mg Tab daily
Omeprazole 20 mg Cap, Delayed Release daily
Docusate sodium 100 mg Cap daily
Levoxyl 88 mcg Tab daily
Oxycodone 5 mg Tab, ___ prn pain
Gabapentin 400 mg Cap, TID
Restasis 0.05 % Eye Dropperette, 2 drops(s) three times a day
Multivitamin Cap daily
Folic Acid ___ mcg Tab 
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. citalopram 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. Travatan Z 0.004 % Drops Sig: One (1)  Ophthalmic once a day: 
both eyes.  
5. insulin glargine 100 unit/mL Solution Sig: Five (5) units 
Subcutaneous at bedtime.  
6. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Contact your PCP if you feel more lightheaded or dizzy.  
7. sennosides 8.6 mg Tablet Sig: Two (2) Tablet PO once a day.  
8. Humalog 100 unit/mL Cartridge Sig: 100 units/mL  Subcutaneous 
on insulin pump basal rate.  
9. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
10. morphine 15 mg Tablet Extended Release Sig: Three (3) Tablet 
Extended Release PO qAM (morning).  
11. morphine 15 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO at bedtime.  
12. lorazepam 1 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety.  
13. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
14. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
15. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
17. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once 
a day.  
18. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. oxycodone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for pain.  
20. gabapentin 400 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
21. Restasis 0.05 % Dropperette Sig: Two (2)  Ophthalmic three 
times a day.  
22. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
23. folic acid ___ mcg Tablet Sig: One (1) Tablet PO once a day. 
 
24. Refresh Celluvisc 1 % Dropperette Sig: One (1)  Ophthalmic 
once a day as needed for dry eyes.  
25. Glucagon Emergency 1 mg Kit Sig: One (1)  Injection once a 
day as needed for low sugar.  
26. Citracal + D Maximum 315-250 mg-unit Tablet Oral
27. lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
28. Outpatient Physical Therapy
Please resume outpatient physical therapy two days a week.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Narcotic withdrawal
Hypertensive Urgency
DKA

 
Discharge Condition:
A&Ox3. VSS. BSGs well controlled 130s-180s.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you here at ___. When you 
first arrived you were confused and your blood pressure was very 
high. We controlled your blood pressure with medications and 
started you on a new medication lisinopril. Given your history 
of low blood pressure, you should be careful when getting up 
quickly and discuss this medication with Dr. ___. Your confusion 
improved when your blood pressures decreased.

Prior to your arrival you reported some vomiting and diarrhea. 
We helped hydrate you with intravenous fluids. Your vomiting and 
diarrhea resolved and we were able to stop the intravenous 
fluids.

Because of your confusion, we had removed your insulin pump. As 
you improved we resumed your home insulin pump with corrections 
and evening lantus, as you did prior to your hospitalization.

During your hospitalization, you were seen by physical therapy. 
They recommended continuing outpatient physical therapy.  You 
will be visited by nurse to help check your blood pressures.

The following changes were made to your medications:
--START taking lisinopril 2.5mg by mouth daily for high blood 
pressure.
--STOP taking sodium chloride.
 
Followup Instructions:
___